US09388185B2
5-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)indolin-2-one
The compound was prepared by using procedures analogous to those described for the synthesis of Example 53, Step 2 starting from 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine and 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)indolin-2-one (from Combi-Blocks) LCMS calculated for C24H23N4O3 (M+H)+: m/z=415.2. Found 415.3.

reactant | 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine | BrC1=CC=2C(=NC=C(N2)CCC2=CC(=CC(=C2)OC)OC)N1 | C16H16BrN3O2
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)indolin-2-one | CC1(OB(OC1(C)C)C=1C=C2CC(NC2=CC1)=O)C | C14H18BNO3
product | 5-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)indolin-2-one | COC=1C=C(CCC=2N=C3C(=NC2)NC(=C3)C=3C=C2CC(NC2=CC3)=O)C=C(C1)OC | C24H22N4O3
